US04450272
2'-Chloro-4-(2-pyrazinyl)-1-piperazinethiocarboxanilide
To a solution of 4.92 g. of 1-(2-pyrazinyl)piperazine in 50 ml. of anhydrous ether is added dropwise a solution of 5.08 g. of 2-chlorophenyl isothiocyanate in 50 ml. of anhydrous ether over 5 minutes. The mixture isstirred for 30 minutes and the resulting solid is collected. This solid is recrystallized from 430 ml. of ethanol giving 7.41 g. of the desired product, m.p. 167°-169° C.

reactant | 1-(2-pyrazinyl)piperazine | N1=C(C=NC=C1)N1CCNCC1 | C8H12N4
reactant | 2-chlorophenyl isothiocyanate | ClC1=C(C=CC=C1)N=C=S | C7H4ClNS
solvent | ether | CCOCC | C4H10O
product | 2'-Chloro-4-(2-pyrazinyl)-1-piperazinethiocarboxanilide | ClC1=C(NC(=S)N2CCN(CC2)C2=NC=CN=C2)C=CC=C1 | C15H16ClN5S
